5T OTA
* Include external file that contains MOSFET Model
.INCLUDE ee214b_hspice.sp
** Circuit Description **
* power supply
VDD 7 0 DC 1.8
* input
VAC1 3 8 ac 0.5
VAC2 4 9 ac -0.5
VDC1 8 0 dc 900m
VDC2 9 0 dc 900m

* circuit
* 5T OTA
M1 6 4 2 0 nch L=317n W=7.197u
M2 5 3 2 0 nch L=317n W=7.197u
M3 6 5 7 7 pch L=627n W=8.658u
M4 5 5 7 7 pch L=627n W=8.658u
M5 2 1 0 0 nch L=928.8n W=8.625u
CL 6 0 500f
* Current Mirror
M6 1 1 0 0 nch L=1.45u W=4.3125u
Iref 7 1 17.13u
** Analysis Requests **
.op
.ac dec 10 1 10e9
** Outputs Requests **
*.PROBE

.END


